US07968538B2
N-(1-(5-Chlorobenzo[d][1,3]dioxol-7-yl)ethyl)-2-(methylsulfonyl)-5-(piperazin-1-yl)benzenamine
A solution of 1-(5-chlorobenzo[d][1,3]dioxol-7-yl)ethanamine (50.0 mg, 0.25 mmol), 2,4-difluoro-1-(methylsulfonyl)benzene (49.0 mg, 0.25 mmol) and diisopropylethylamine (129.0 mg, 4.0 mmol) in N,N-dimethylformamide (1 mL) was stirred at 110° C. for 16 h. The reaction was cooled to room temperature, poured over water and extracted with diethyl ether. The crude extract which contained mainly N-(1-(5-chlorobenzo[d][1,3]dioxol-7-yl)ethyl)-5-fluoro-2-(methylsulfonyl)benzenamine was used for the following reactions without further purification. A solution of N-(1-(5-chlorobenzo[d][1,3]dioxol-7-yl)ethyl)-5-fluoro-2-(methylsulfonyl)benzenamine (93.0 mg, 0.25 mmol), piperazine (432.0 mg, 5.0 mmol) and N,N-diisopropylethylamine (0.44 mL, 2.5 mmol) in acetonitrile (1 mL) was stirred at 80° C. for 16 h. The reaction mixture was cooled down and concentrated under reduced pressure. The residue was taken up in dichloromethane, washed with water, dried and concentrated in vacuo. The crude product was purified by silica chromatography (10% methanol in dichloromethane) to yield 15 mg (14%) of desired product. 1H NMR (400 MHz, CDCl3): δ 7.56 (d, 1H), 6.80 (d, 1H), 6.72 (s, 1H), 6.51 (d, 1H), 6.26 (dd, 1H), 5.99 (dd, 2H), 5.92 (s, 1H), 4.59 (m, 1H), 3.21 (m, 4H), 2.57 (m, 4H), 1.59 (d, 3H); MS (ESI) m/z: 438.3 (M++1).

reactant | 1-(5-chlorobenzo[d][1,3]dioxol-7-yl)ethanamine | 0.25 mmol, 50.0 mg | ClC1=CC2=C(OCO2)C(=C1)C(C)N | C9H10ClNO2
reactant | 2,4-difluoro-1-(methylsulfonyl)benzene | 0.25 mmol, 49.0 mg | FC1=C(C=CC(=C1)F)S(=O)(=O)C | C7H6F2O2S
reactant | diisopropylethylamine | 4.0 mmol, 129.0 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-(1-(5-chlorobenzo[d][1,3]dioxol-7-yl)ethyl)-5-fluoro-2-(methylsulfonyl)benzenamine | 0.25 mmol, 93.0 mg | ClC1=CC2=C(OCO2)C(=C1)C(C)NC1=C(C=CC(=C1)F)S(=O)(=O)C | C16H15ClFNO4S
reactant | piperazine | 5.0 mmol, 432.0 mg | N1CCNCC1 | C4H10N2
reactant | N,N-diisopropylethylamine | 2.5 mmol, 0.44 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | N-(1-(5-Chlorobenzo[d][1,3]dioxol-7-yl)ethyl)-2-(methylsulfonyl)-5-(piperazin-1-yl)benzenamine | 15 mg, 14% | ClC1=CC2=C(OCO2)C(=C1)C(C)NC1=C(C=CC(=C1)N1CCNCC1)S(=O)(=O)C | C20H24ClN3O4S
